US07119207B2
1-Ethyl-6-methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde
6-Methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde (preparation 3) 60 mg (0.293 mmol) was dissolved in 5 ml of anhydrous THF and the solution was cooled to 0° C. The reaction mixture was treated with 33 mg (0.293 mmol) of potassium t-butoxide whereupon it became yellow in color. After stirring for 30 minutes, the mixture was treated with 23 μl (0.293 mmol) ethyl iodide and slowly warmed to room temperature while stirring for 16 hours (h). The reaction mixture was diluted with saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic phase was dried over sodium sulfate and concentrated to an oil. The residue was chromatographed on silica gel eluting with 6/4 ethyl acetate/hexane to afford 34 mg (40%) as a white solid. MS APCI m/e 234 (p+1)

reactant | 6-Methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde | 0.293 mmol, 60 mg | COC=1C=C2CCC(NC2=CC1C=O)=O | C11H11NO3
reactant | potassium t-butoxide | 0.293 mmol, 33 mg | CC(C)([O-])C.[K+]
reactant | ethyl iodide | 0.293 mmol, 23 μl | C(C)I | C2H5I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-Ethyl-6-methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde | C(C)N1C(CCC2=CC(=C(C=C12)C=O)OC)=O | C13H15NO3
